US06011044
Preparation of 1-(2-methylphenyl)-4-amino-6-trifluoromethoxy-pyrrolo[3,2-c]quinoline
1-(2-methylphenyl)-4-chloro-6-trifluoromethoxypyrrolo[3,2-c]quinoline(377 mg, 1.0 mmol) was dissolved in aqueous ammonia(10 ml), then reacted at the same condition of Step 3 in the Example 6 to obtain 29 mg of desired compound as solid in 8% of yield.

reactant | 1-(2-methylphenyl)-4-chloro-6-trifluoromethoxypyrrolo[3,2-c]quinoline | 1.0 mmol, 377 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H12ClF3N2O
reactant | ammonia | 10 ml | N | H3N
product | 1-(2-methylphenyl)-4-amino-6-trifluoromethoxy-pyrrolo[3,2-c]quinoline | 29 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)N | C19H14F3N3O
